US04762850
Reaction of 1-(3,5-difluorobenzyl)-2-mercaptoimidazole-5-carboxylic acid prepared as in Example 1 with methyl iodide and sodium methoxide in methanol by standard techniques yields 1-(3,5-difluorobenzyl)-2-methylmercaptoimidazole-5-carboxylic acid.

reactant | 1-(3,5-difluorobenzyl)-2-mercaptoimidazole-5-carboxylic acid | FC=1C=C(CN2C(=NC=C2C(=O)O)S)C=C(C1)F | C11H8F2N2O2S
reactant | methyl iodide | CI | CH3I
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 1-(3,5-difluorobenzyl)-2-methylmercaptoimidazole-5-carboxylic acid | FC=1C=C(CN2C(=NC=C2C(=O)O)SC)C=C(C1)F | C12H10F2N2O2S
